US03975443
1-Dimethylamino-N-[3,4-dichlorotolyl]-cyclohexane carboxamide (0.658 g.,) was dissolved in ethanol (5 ml.) and ethereal hydrogen chloride (10 ml.) was added. The solution was evaporated to leave a colourless oil which was taken up in the minimum volume of acetic acid. Dropwise addition of ether, with scratching and cooling, precipitated the hydrochloride as colourless prisms which was dried over potassium hydroxide in vacuo (0.688 g., m.p. 160-170°). Recrystallisation from ethanol (addition of ether) afforded 1-dimethylamino-N-[3,4-dichlorotolyl]-cyclohexane carboxamide hydrochloride as white prisms (0.351 g., 48%); m.p. 162-166°C.

reactant | 1-Dimethylamino-N-[3,4-dichlorotolyl]-cyclohexane carboxamide | 0.658 g | CN(C1(CCCCC1)C(=O)NC1=C(C=CC(=C1Cl)Cl)C)C | C16H22Cl2N2O
reactant | hydrogen chloride | 10 ml | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-dimethylamino-N-[3,4-dichlorotolyl]-cyclohexane carboxamide hydrochloride | Cl.CN(C1(CCCCC1)C(=O)NC1=C(C=CC(=C1Cl)Cl)C)C | InChI=1S/C16H22Cl2N2O.ClH/c1-11-7-8-12(17)13(18)14(11)19-15(21)16(20(2)3)9-5-4-6-10-16;/h7-8H,4-6,9-10H2,1-3H3,(H,19,21);1H
